*-----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends



.options savecurrents

Vcc vcc 0 5.0
Vee vee 0 -5.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)


X1 0 inv_in vcc vee n3 uA741

C1 in inv_in 220n

* R1 = 2 resistências de 1k em paralelo
R1 inv_in 0 0.5k

* R3 = 3 resistências de 100k em série
R3 n2 n3 300k

* R4 = 2 resistências de 10k em paralelo
R4 n2 0 5k

R2 n3 out 1k

* C2 = 2 condensadores de 220n em série
C2 out 0 110n

.op
.end

.control

print all

* time analysis
tran 1e-5 1e-2

plot v(out)
hardcopy vo1.ps v(out)
echo vo1_FIG


* frequency analysis
ac dec 10 10 100MEG

plot vdb(out)
hardcopy vdb.ps vdb(out)
echo vdb_FIG

plot vp(out)
hardcopy vp.ps vp(out)
echo vp_FIG


* gain
let gain = abs(v(out)[20])/abs(v(in)[20])
let gaindb = 20*log10(abs(gain))
print gaindb
let gain_dev_db = abs(gaindb-40)
let gain_dev_lin= abs(gain-100)
print gain_dev_db

let ref=gaindb-3

meas AC low WHEN vdb(out) = ref
meas AC up WHEN vdb(out) = ref CROSS=LAST

* central freq deviation
let cent_freq = sqrt(low*up)
let cent_freq_dev = abs(cent_freq-1000)
*print cent_freq_dev
*print cent_freq_dev*gain_dev_db

* bandwidtth
let bandwidth=up-low

* cost
let cost_c_opam=(8.661E-12+30.00E-12)*1000000
let cost_r_opam=(100.0E3+5.305E3+5.305E3+1.836E3+1.836E3+13.19E6+50+100+18.16E3)/1000
let cost_q_opam=2*0.1
let cost_d_opam=5*0.1
let cost_opam=cost_c_opam+cost_r_opam+cost_d_opam+cost_q_opam
let cost_r=(3*1+2*10+3*100)/1000
let cost_c=(0.220*3)*1000000
let cost=cost_opam+cost_r+cost_c
print cost

* merit
let merit=(1/(cost*(gain_dev_lin*cent_freq_dev+1e-6)))
print merit


* tables (print)

echo "merit_TAB"
echo "Merit = $&merit"
echo "Cost = $&cost MU"
echo "merit_END"

echo "gain_TAB"
echo "Output Voltage Gain dB = $&gain"
echo "Central Freq = $&cent_freq"
echo "Low CO Freq = $&low"
echo "Up CO Freq = $&up"
echo "Gain Deviation = $&gain_dev_lin"
echo "Gain Deviation dB = $&gain_dev_db"
echo "Central Freq Deviation =$&cent_freq_dev"
echo "Bandwidth = $&bandwidth"
echo "gain_END"

*input impedance
let Zi = abs(v(in)[20]/vin#branch[20])
print Zi

*echo "inputZ_TAB"
*echo "ZI = $&Zi"
*echo "inputZ_END"

.endc 

.end
